US09403839B2
2-Bromopropane (3.39 mL, 36.2 mmol) was added to a suspension of 4-bromo-2-methoxy-phenol (5 g, 24.1 mmol), K2CO3 (6.67 g, 48.3 mmol) and DMSO (71 mL) at room temperature. The heterogeneous mixture was stirred at 55° C. for 2 hours, then cooled to room temperature and diluted with water. The reaction mixture was extracted with Et2O and the extract was washed successively with 10% aq. NaOH solution, water, then brine solution. The organics were separated and dried over sodium sulfate, filtered and concentrated in vacuo to give 4-bromo-1-isopropoxy-2-methoxy-benzene (5.83 g, 94%) as a pale yellow oil. ESI-MS m/z calc. 244.0, found 245.0 (M+1)+; Retention time: 1.93 minutes (3 min run). 1H NMR (400 MHz, CDCl3) δ 7.03-6.95 (m, 2H), 6.76 (dd, J=7.7, 1.1 Hz, 1H), 4.47 (dt, J=12.2, 6.1 Hz, 1H), 3.84 (s, 3H), 1.35 (d, J=6.1 Hz, 6H).

reactant | 2-Bromopropane | 36.2 mmol, 3.39 mL | BrC(C)C | C3H7Br
reactant | 4-bromo-2-methoxy-phenol | 24.1 mmol, 5 g | BrC1=CC(=C(C=C1)O)OC | C7H7BrO2
reactant | K2CO3 | 48.3 mmol, 6.67 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMSO | 71 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-bromo-1-isopropoxy-2-methoxy-benzene | 5.83 g, 94% | BrC1=CC(=C(C=C1)OC(C)C)OC | C10H13BrO2
